US04835164
1-[(2-Ethoxyphenoxy)methyl]octahydropyrido[2,1-c][1,4]oxazine
In 300 ml of tetrahydrofuran (freshly distilled from lithium aluminum hydride) was dissolved 1-[(2-ethoxyphenoxy)methyl]-6,7,8,9-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-4(3H)-one (8.12 g, 0.0265 mole). The solution was cooled to 5° C. in an ice bath and 40 ml of 1M borane in tetrahydrofuran was added by syringe to the stirred solution under nitrogen. The solution was stirred at room temperature for 2 hr and then heated at reflux for 2 hr. The reaction mixture was cooled to room temperature and slowly quenched with glacial acetic acid. The solvent was removed in vacuo. The residue was partitioned between 10% sodium hydroxide and diethyl ether. Removal of the diethyl ether gave a yellow oil. This oil was then dissolved in a minimum amount of chloroform and chromatographed on a 500 g. Silica Gel column (gradient elution with chloroform methanol). Fractions from the column were combined which gave a single spot on TLC (methanol-chloroform) at similar Rf. A total of 5.08 g (65.8%) of a light yellow oil was obtained.

reactant | 1-[(2-ethoxyphenoxy)methyl]-6,7,8,9-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-4(3H)-one | 0.0265 mole, 8.12 g | C(C)OC1=C(OCC2OCC(N3C2CCCC3)=O)C=CC=C1 | C17H23NO4
reactant | borane | 1M, 40 ml | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[(2-Ethoxyphenoxy)methyl]octahydropyrido[2,1-c][1,4]oxazine | 5.08 g, 65.8% | C(C)OC1=C(OCC2OCCN3C2CCCC3)C=CC=C1 | C17H25NO3
